US08754226B2
To a solution of (S)-4-(1-(1-(5-chloro-3-fluoropyridin-2-yl)piperidin-4-yl)-2-oxopyrrolidin-3-yloxy)-3-fluorobenzoic acid (0.10 g, 0.22 mmol) in DMF (2 mL) was added HATU (0.17 g, 0.44 mmol) and N-ethyl-N-isopropylpropan-2-amine (0.12 mL, 0.66 mmol) and the reaction was stirred for 20 minutes at ambient temperature. (S)-Pyrrolidin-3-ol (0.058 g, 0.66 mmol) was added, and the reaction was stirred for 2 hours at ambient temperature. The reaction was diluted with EtOAc (30 mL) and washed with HCl (1 N, 10 mL), NaOH (1 N, 10 mL), water (10 mL), and brine (10 mL), and the combined organic phases were dried over MgSO4, filtered and concentrated under vacuum. The crude material was purified by reverse preparative HPLC. The combined fractions were diluted with EtOAc (50 mL) and washed with 1N NaOH (10 mL), water (10 mL), and brine (10 mL), and the combined organic phases were dried over MgSO4, filtered and concentrated under vacuum to give (S)-1-(1-(5-chloro-3-fluoropyridin-2-yl)piperidin-4-yl)-3-(2-fluoro-4-((S)-3-hydroxypyrrolidine-1-carbonyl)phenoxy)pyrrolidin-2-one (0.0353 g, 0.0678 mmol, 30.6% yield). Mass spectrum (apci) m/z=521.0 (M+H).

reactant | (S)-4-(1-(1-(5-chloro-3-fluoropyridin-2-yl)piperidin-4-yl)-2-oxopyrrolidin-3-yloxy)-3-fluorobenzoic acid | 0.22 mmol, 0.10 g | ClC=1C=C(C(=NC1)N1CCC(CC1)N1C([C@H](CC1)OC1=C(C=C(C(=O)O)C=C1)F)=O)F | C21H20ClF2N3O4
reactant | HATU | 0.44 mmol, 0.17 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.66 mmol, 0.12 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | (S)-Pyrrolidin-3-ol | 0.66 mmol, 0.058 g | N1C[C@H](CC1)O | C4H9NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | (S)-1-(1-(5-chloro-3-fluoropyridin-2-yl)piperidin-4-yl)-3-(2-fluoro-4-((S)-3-hydroxypyrrolidine-1-carbonyl)phenoxy)pyrrolidin-2-one | 0.0678 mmol, 0.0353 g, 30.6% yield | ClC=1C=C(C(=NC1)N1CCC(CC1)N1C([C@H](CC1)OC1=C(C=C(C=C1)C(=O)N1C[C@H](CC1)O)F)=O)F | C25H27ClF2N4O4
